US04003699
5-(Diethylamino)-2-methylphenol Hydrochloride
5 gm of 5-(ethylamino)-2-methylphenol were dissolved in 50 ml of ethanol, then alkylated analogously to the procedure described in Example 4 with 5,2 gm ethyl bromide, and worked up. The hydrochloride had a melting point of 192° C.

reactant | 5-(ethylamino)-2-methylphenol | 5 gm | C(C)NC=1C=CC(=C(C1)O)C | C9H13NO
reactant | ethyl bromide | 5,2 gm | C(C)Br | C2H5Br
reactant | hydrochloride | Cl | ClH
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 5-(Diethylamino)-2-methylphenol Hydrochloride | Cl.C(C)N(C=1C=CC(=C(C1)O)C)CC | InChI=1S/C11H17NO.ClH/c1-4-12(5-2)10-7-6-9(3)11(13)8-10;/h6-8,13H,4-5H2,1-3H3;1H
